US06340684B1
Synthesis of 3-cyclopentyloxy-N,N-diethyl-4-methoxy-benzamide
Diethylamine (69.2 g, 0.672 moles) was added dropwise at 5-10° C. to a solution of 3-cyclopentyloxy-4-methoxy benzoyl chloride (57 g, 0.224 moles) obtained as described in example 2, in methylene chloride (250 ml). The mixture was evaporated to dryness, dissolved in ethyl acetate, washed with water, with 2% potassium bisulphate, again with water and sodium bicarbonate, dried on sodium sulphate and brought to dryness. The residue was taken up with petrolatum (250 ml) to give 61.2 g of the title compound (yield: 94%).

reactant | Diethylamine | 0.672 moles, 69.2 g | C(C)NCC | C4H11N
reactant | 3-cyclopentyloxy-4-methoxy benzoyl chloride | 0.224 moles, 57 g | C1(CCCC1)OC=1C=C(C(=O)Cl)C=CC1OC | C13H15ClO3
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyloxy-N,N-diethyl-4-methoxy-benzamide | 61.2 g, yield: 94% | C1(CCCC1)OC=1C=C(C(=O)N(CC)CC)C=CC1OC | C17H25NO3
